US06740647B1
c) 2-(N-BOC-Aminomethyl)-5-cyano-4-trifluoromethylthiazole [sic]
2-(N-BOC-Aminomethyl)-4-trifluoromethylthiazole-5-carboxamide [sic] (4.6 g, 14.14 mmol) was dissolved in dichloromethane (30 ml) and cooled to −5° C. Ethyldiisopropylamine (4.6 g, 35.35 mmol) and a solution of trifluoroacetic anhydride (3.4 g, 16.26 mmol) in dichloromethane (10 ml) were added at this temperature. Then, the mixture was stirred for a further 2 hours at 0° C. It was washed in succession with saturated sodium hydrogen carbonate solution and 5% strength citric acid solution. After drying (MgSO4), the solvent was removed on a rotary evaporator. The crude product was extracted by stirring with diethyl ether/petroleum ether. The supernatant was separated from the oil and concentrated on a rotary evaporator. Yield: 1.9 g (6.18 mmol, 44%).

reactant | 2-(N-BOC-Aminomethyl)-4-trifluoromethylthiazole-5-carboxamide | 14.14 mmol, 4.6 g | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(F)(F)F)C(=O)N | C11H14F3N3O3S
reactant | Ethyldiisopropylamine | 35.35 mmol, 4.6 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | 16.26 mmol, 3.4 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(N-BOC-Aminomethyl)-5-cyano-4-trifluoromethylthiazole | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(F)(F)F)C#N | C11H12F3N3O2S
